US05942511
Synthesis of 3-(4-methylphenoxy)-6-allylthiopyridazine
0.23 g(0.01 mol) of metallic sodium was dissolved in 30 ml of dry p-cresol. To the resulting solution was added 1.87 g(0.01 mol) of 3-chloro-6-allylthiopyridazine and then the reaction solution was stirred for 5 hours at 100±5° C. After the reaction was allowed to stop, the reaction solution was cooled and adjusted to alkaline (pH 14) with 150 ml of 2N--NaOH, thereby precipitating the crystals. The precipitated crystal was extracted with diethyl ether, washed twice with purified water, dried over anhydrous magnesium sulfate and then concentrated to remove diethyl ether. The resulting oily residue was slowly cooled to obtain the title compound as a pale white amorphous crystal.

reactant | sodium | 0.01 mol, 0.23 g | [Na] | Na
reactant | 3-chloro-6-allylthiopyridazine | 0.01 mol, 1.87 g | ClC=1N=NC(=CC1)SCC=C | C7H7ClN2S
reactant | p-cresol | 30 ml | C1=CC(=CC=C1O)C | C7H8O
product | 3-(4-methylphenoxy)-6-allylthiopyridazine | CC1=CC=C(OC=2N=NC(=CC2)SCC=C)C=C1 | C14H14N2OS
